US04954511
To a stirring mixture of 9.0 g of potassium carbonate in 100 ml of dimethylformamide was added 8.0 g of 4-(2,3,4,5,6-pentafluorophenoxy)piperidine and 9.5 g of dimethylphosphinylmethyl chloride. After stirring at 80° C. for 30 hours, the reaction mixture was cooled, poured into water, and extracted with ethyl acetate. The organic layer was washed with water followed by a saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, evaporation afforded a residue which was purified by means of high pressure liquid chromatography (silica gel; elution with 5% methanol/dichloromethane). The desired fractions were evaporated to yield a solid which was sublimed to afford 2.37 g (22.1%) of 1-[(dimethylphosphinyl)methyl]-4-(2,3,4,5,6-pentafluorophenoxy)piperidine, m.p. 120°-123° C.

reactant | potassium carbonate | 9.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 8.0 g | FC1=C(OC2CCNCC2)C(=C(C(=C1F)F)F)F | C11H10F5NO
reactant | dimethylphosphinylmethyl chloride | 9.5 g | CP(=O)(C)CCl | C3H8ClOP
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-[(dimethylphosphinyl)methyl]-4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 2.37 g, 22.1% | CP(=O)(C)CN1CCC(CC1)OC1=C(C(=C(C(=C1F)F)F)F)F | C14H17F5NO2P
